US08048909B2
3-[(4-{[(tert-Butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid
Methyl 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate (710 mg) was dissolved in tetrahydrofuran (5 mL) and methanol (3 mL), and 1 mol/L aqueous sodium hydroxide solution (3 mL) was added at 0° C. The mixture was stirred at 0° C. for 1 hr, and at room temperature for 2 hr, cooled again to 0° C., acidified with 1 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residual crystals were washed with a mixed solvent of isopropyl ether and hexane to give the title compound as colorless crystals (yield 577 mg, 83%).

reactant | Methyl 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate | 710 mg | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H28N2O6S
reactant | sodium hydroxide | 1 mol/L, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 3-[(4-{[(tert-Butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid | yield 577 mg, 83% | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C24H26N2O6S
